US08058269B2
Preparation of rac-4-Chloro-2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-methyl-amino}-benzoic acid
At room temperature, 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (800 mg, 2.16 mmol), 4-Chloro-2-methylamino-benzoic acid (400 mg, 2.16 mmol) and K2CO3 (298 mg, 2.16 mmol) were dissolved in about 8 ml DMSO. After stirred for about 2 h, the solution was poured into water to obtain the crude product. The crude product was purified by chromatography to obtain 600 mg solid rac-4-Chloro-2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-methyl-amino}-benzoic acid

reactant | 3-Bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 2.16 mmol, 800 mg | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
reactant | 4-Chloro-2-methylamino-benzoic acid | 2.16 mmol, 400 mg | ClC1=CC(=C(C(=O)O)C=C1)NC | C8H8ClNO2
reactant | K2CO3 | 2.16 mmol, 298 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | about 8 ml | CS(=O)C | C2H6OS
product | rac-4-Chloro-2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-methyl-amino}-benzoic acid | 600 mg | ClC1=CC(=C(C(=O)O)C=C1)N(C)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C23H17Cl3N2O3
